US08557876B2
1,4a-Dimethyl-octahydro-naphthalen-2-one is first prepared by hydrogenating 1,4a-dimethyl-4,4-a,5,6,7,8-hexahydro-3H-naphthalen-2-one (prepared as described by Sjoebers in Acta Chemica Scand., 1990, 44(10), pages: 1036-1041) with Pd/C in alcohol in a Parr Hydrogenator at 25-60° C. and under 500 psi of hydrogen gas. A 100 mL reaction flask is charged with 1,4a-dimethyl-octahydro-naphthalen-2-one (10 g, 0.05 mol), formamidine acetate (27 g, 0.26 mol), and butanol (50 mL). The reaction mixture is heated to 130° C. and stirred for 24 hours. The crude mass is washed once with aqueous sulfuric acid (10%, 100 mL) followed by twice with brine (30 mL). Butanol is recovered by roto-evaporation. The crude product is further purified with liquid chromatography (Biotage® system) and then crystallized. Product 5a,10-dimethyl-5,5a,6,7,8,9,9a,10-octahydro-benzo[g]quinazoline (˜5 g) is obtained.

reactant | 1,4a-Dimethyl-octahydro-naphthalen-2-one | CC1C(CCC2(CCCCC12)C)=O | C12H20O
reactant | hydrogen | [H][H] | H2
reactant | 1,4a-dimethyl-octahydro-naphthalen-2-one | 0.05 mol, 10 g | CC1C(CCC2(CCCCC12)C)=O | C12H20O
reactant | formamidine acetate | 0.26 mol, 27 g | C(C)(=O)O.C(=N)N
catalyst | Pd/C | [Pd] | Pd
solvent | butanol | 50 mL | C(CCC)O | C4H10O
product | 5a,10-dimethyl-5,5a,6,7,8,9,9a,10-octahydro-benzo[g]quinazoline | ˜5 g | CC12CC=3C=NC=NC3C(C1CCCC2)C | C14H20N2
